US09278972B2
Preparation of (1S,2S,3R,5S)-3-((6-chloro-5-nitro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACIN)
To a stirring solution of 4,6-dichloro-5-nitro-2-(propylthio)pyrimidine (CLIN; 0.80 g, 3 mmol) in tetrahydrofuran (30 mL) at 0° C. was slowly added a solution of (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLA; 0.53 g, 3 mmol) in N-methylpyrrolidin-2-one (5 mL). After 10 min there was added triethylamine (0.42 mL, 3 mmol) and the mixture left stirring for 3 h at 0° C. and then 16 h at 20° C. The reaction mixture was diluted with ethyl acetate (60 mL), washed with water (2×60 mL) and evaporated under reduced pressure. The obtained crude product was triturated under diisopropyl ether (10 mL) and filtered to give OLACIN as a yellow powder (0.86 g, 70% yield): 98 area % by HPLC; mp 94-98° C.; 13C NMR (CDCl3, 125 MHz) δ13.2, 22.3, 32.7, 33.6, 55.7, 60.3, 70.7, 74.0, 74.6, 82.5, 124.5, 151.6, 153.9, 171.9.

reactant | 4,6-dichloro-5-nitro-2-(propylthio)pyrimidine | 3 mmol, 0.80 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SCCC | C7H7Cl2N3O2S
reactant | (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 3 mmol, 0.53 g | N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C7H15NO4
reactant | triethylamine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidin-2-one | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S,3R,5S)-3-((6-chloro-5-nitro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 0.86 g, 70% yield | ClC1=C(C(=NC(=N1)SCCC)N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O)[N+](=O)[O-] | C14H21ClN4O6S
